US07018988B2
(2S,4EZ)-N-benzyl-4-(chloromethylene)-N-methyl-1-(4-phenoxybenzoyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid, 4-phenoxybenzoyl chloride, and N-benzyl-N-methylamine the title compound was obtained in 61% purity by LC/MS. MS(ESI+): m/z=461.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=CCl)C(=O)O | C11H16ClNO4
reactant | 4-phenoxybenzoyl chloride | O(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO2
reactant | N-benzyl-N-methylamine | C(C1=CC=CC=C1)NC | C8H11N
product | (2S,4EZ)-N-benzyl-4-(chloromethylene)-N-methyl-1-(4-phenoxybenzoyl)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)N(C(=O)[C@H]1N(CC(C1)=CCl)C(C1=CC=C(C=C1)OC1=CC=CC=C1)=O)C | C27H25ClN2O3
